US06936619B2
2-Fluoro-4-methoxy-6-(2-methoxy-ethoxy)-benzonitrile
Sodium hydride (60% in mineral oil, 0.88 g, 22 mmol) was added to 2-methoxyethanol (1.84 g, 24 mmol) in tetrahydrofuran (20 ml) and the mixture was stirred at room temperature for 20 minutes. 2,6-Difluoro-4-methoxy-benzonitrile (Mol. Cryst. Liq. Cryst. 1989, 172) (3.38 g, 20 mmol) was added and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water and the solution was extracted with dichloromethane (3×50 ml). The combined organic solutions were dried over magnesium sulphate and evaporated under reduced pressure. The residue was purified by chromatography on silica gel using methanol in dichloromethane as eluant (gradient from 0:100 to 3:97) to give the title compound (3.8 g).

reactant | Sodium hydride | 22 mmol, 0.88 g | [H-].[Na+]
reactant | 2-methoxyethanol | 24 mmol, 1.84 g | COCCO | C3H8O2
reactant | 2,6-Difluoro-4-methoxy-benzonitrile | 20 mmol, 3.38 g | FC1=C(C#N)C(=CC(=C1)OC)F | C8H5F2NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-Fluoro-4-methoxy-6-(2-methoxy-ethoxy)-benzonitrile | 3.8 g | FC1=C(C#N)C(=CC(=C1)OC)OCCOC | C11H12FNO3
